US08236835B2
Synthesis of N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 4, making variations as required to use N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with N-bromosuccinimide, the title compound was obtained as a yellow oil in 56% yield: MS (ES+) m/z 408.2 (M+1), 410.2 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 56% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)Br)=O)C | C17H18BrN3O2S
